US07652022B2
[4-(6-Chloro-pyrimidin-4-yloxy)-3-methyl-phenyl]-carbamic acid benzyl ester (Compound of Stage 156.3)
(4-Hydroxy-3-methyl-phenyl)-carbamic acid benzyl ester (278 mg, 1.08 mmol) and NaH (29 mg, 1.2 mmol) dissolved in DMF (5 mL) are stirred at rt for 15 min. 4,6-Dichloro-pyrimidine (177 mg, 1.19 mmol) dissolved in DMF (5 mL) is added and the reaction solution is stirred for 1 h, concentrated under reduced pressure and flash chromatographed (silica gel, 2.5×60 cm, AcOEt/hexane=1:6): M+H=370.8; Rf (AcOEt/hexane=1:6): 0.31.

reactant | (4-Hydroxy-3-methyl-phenyl)-carbamic acid benzyl ester | 1.08 mmol, 278 mg | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)O)C)=O | C15H15NO3
reactant | NaH | 1.2 mmol, 29 mg | [H-].[Na+]
reactant | 4,6-Dichloro-pyrimidine | 1.19 mmol, 177 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [4-(6-Chloro-pyrimidin-4-yloxy)-3-methyl-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)OC1=NC=NC(=C1)Cl)C)=O | C19H16ClN3O3
